US07544702B2
Copper iodide (26 mg, 0.14 mmol) and neocuproine (29 mg, 0.14 mmol) were added to a stirred mixture of 2-amino-5-iodo-isonicotinic acid pentyl ester (450 mg, 1.35 mmol), 4-(piperidine-1-sulfonyl)-benzenethiol (449 mg, 1.49 mmol) and sodium t-butoxide (195 mg, 2.025 mmol) in toluene (10 ml) and the reaction was heated to reflux overnight. The reaction was cooled to room temperature, solids filtered off through celite and the filtrate concentrated under reduced pressure onto silica. The residue was purified by flash column chromatography using ethyl acetate 2/3 hexane as eluent to afford 2-amino-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-isonicotinic acid pentyl ester as an orange solid (348 mg, 56%). 1H NMR (CDCl3): (1H, s, py); 7.51 (2H, d, Ar); 7.10 (2H, d, Ar); 6.80 (1H, s, py); 4.92 (2H, br s, NH2); 4.14 (2H, t, OCH2); 2.90 (4H, m, 2×CH2N pip); 1.53 (6H, m, OCH2CH2, 2×CH2 pip); 1.46 (2H, m, CH2 pip); 1.24 (4H, m, OCH2CH2CH2CH2CH3); 0.80 (3H, t, CH2CH3).

reactant | neocuproine | 0.14 mmol, 29 mg | CC=1C=CC=2C=CC=3C=CC(=NC3C2N1)C | C14H12N2
reactant | 2-amino-5-iodo-isonicotinic acid pentyl ester | 1.35 mmol, 450 mg | C(CCCC)OC(C1=CC(=NC=C1I)N)=O | C11H15IN2O2
reactant | 4-(piperidine-1-sulfonyl)-benzenethiol | 1.49 mmol, 449 mg | N1(CCCCC1)S(=O)(=O)C1=CC=C(C=C1)S | C11H15NO2S2
reactant | sodium t-butoxide | 2.025 mmol, 195 mg | CC(C)([O-])C.[Na+]
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
catalyst | Copper iodide | 0.14 mmol, 26 mg | [Cu](I)I
product | 2-amino-5-[4-(piperidine-1-sulfonyl)-phenylsulfanyl]-isonicotinic acid pentyl ester | 348 mg, 56% | C(CCCC)OC(C1=CC(=NC=C1SC1=CC=C(C=C1)S(=O)(=O)N1CCCCC1)N)=O | C22H29N3O4S2
